US07977351B2
3-[7-Chloro-1-ethyl-6-(2-morpholin-4-yl-ethylamino)-1H-furo[3,4-c]pyridin-3-ylidene]-5-fluoro-1,3-dihydro-indol-2-one
A solution of 2-morpholin-4-yl-ethylamine (178 mg, 1.37 mmol) in 3 mL of dioxane is treated with 3-(6,7-dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one (100 mg, 0.27 mmol) in one portion and the reaction mixture is heated to 100° C. for 12 hr. The reaction mixture is treated with 12 mL of water and then heated at reflux for 1 hr. The reaction mixture is cooled to room temperature and the precipitate which formed is collected by filtration and dried under vacuum to give the title compound as a yellow solid (22 mg, 18%).

reactant | 2-morpholin-4-yl-ethylamine | 1.37 mmol, 178 mg | N1(CCOCC1)CCN | C6H14N2O
reactant | 3-(6,7-dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 0.27 mmol, 100 mg | ClC1=C(C2=C(C=N1)C(OC2CC)=C2C(NC1=CC=C(C=C21)F)=O)Cl | C17H11Cl2FN2O2
reactant | water | 12 mL | O | H2O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 3-[7-Chloro-1-ethyl-6-(2-morpholin-4-yl-ethylamino)-1H-furo[3,4-c]pyridin-3-ylidene]-5-fluoro-1,3-dihydro-indol-2-one | 22 mg, 18% | ClC=1C2=C(C=NC1NCCN1CCOCC1)C(OC2CC)=C2C(NC1=CC=C(C=C21)F)=O | C23H24ClFN4O3
